US07985753B2
1,5-Dimethyl-3,4-dihydro-isoquinoline
In close analogy to the procedure described above, N-(2-o-tolyl-ethyl)-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-(2-o-tolyl-ethyl)-acetamide | C1(=C(C=CC=C1)CCNC(C)=O)C | C11H15NO
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 1,5-Dimethyl-3,4-dihydro-isoquinoline | Yield: 59% | CC1=NCCC2=C(C=CC=C12)C | C11H13N
